*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ630ARA101MJA0G
*//   Date        : 2020/12/21
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ630ARA101MJA0G_20deg-C 1 2

C1 4 2 7.88e-05
C2 5 2 1.21e-05
C3 6 2 4.53e-06
R1 3 4 1.20e-02
R2 4 5 5.99e-02
R3 5 6 1.80e+00
L1 1 3 4.50e-09

.ENDS
*$
